US04992433
A mixture of 5 parts of 4-[2-[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenoxy]ethyl]-1-(phenylmethyl)piperidine and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 3.4 parts (86.4%) of 4-[2-[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenoxy]ethyl]piperidine as a residue (int. 75).

reactant | 4-[2-[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenoxy]ethyl]-1-(phenylmethyl)piperidine | CC1(N=C(OC1)C1=CC=C(OCCC2CCN(CC2)CC2=CC=CC=C2)C=C1)C | C25H32N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-[2-[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenoxy]ethyl]piperidine | 86.4% | CC1(N=C(OC1)C1=CC=C(OCCC2CCNCC2)C=C1)C | C18H26N2O2
